Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Recurrent right pneumothorax
 
Major Surgical or Invasive Procedure:
Right pleurodesis, diaphragmatic plication and biopsy. 

 
History of Present Illness:
Ms. ___ is a ___ yo F who developed a cough/cold in early 
___ lasting about 6 weeks.  In last ___ she had the 
sudden onset of right sided chest pain and SOB.  A subsequent 
CXR documented a sizable right pneumothorax.  She was admitted 
to ___ and a right lateral chest tube was placed.
Her lung re-expanded within a few days and the tube was removed 
but she had another right pneumothorax with mediastinal shift  
within 24 hours and the tube was replaced. After several more 
days in ___ the tube was removed
and she was finally discharged on ___ with an expanded 
right lung. She had recurrent pain on ___ and returned to 
___ with another pneumothorax. A right anterolateral 
chest tube was placed and put on suction and her lung re-expand. 
 Her initial air leak eventually resolved.  Surgery was 
recommended and she requested transfer here.
 
Past Medical History:
PAST MEDICAL HISTORY:
1. Hypertension
2. G6PD deficiency
3. GERD/gastritis
4. Endometriosis
5. Recurrent right pneumothorax
6. B/L hip brusitis
7. Gastritis (remote)
PSH
1. s/p Partial hysterectomy
2. s/p umbilical hernia repair with mesh

 
Social History:
___
Family History:
Mother DM, BOOP (alive and well)
 
Physical Exam:
Gen: NAD
CV: RRR no M/G/R
P: CTAB no W/R/R
Abd: S/NT/ND
Ext: no C/C/E
TLD: none
 
Pertinent Results:
___ 02:58PM   WBC-7.0 RBC-3.94 HGB-12.1 HCT-38.2 MCV-97 
MCH-30.7 MCHC-31.7* RDW-12.4 RDWSD-44.1
___ 02:58PM   PLT COUNT-265
___ 02:58PM   GLUCOSE-125* UREA N-6 CREAT-0.6 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-28 ANION GAP-12
 
Brief Hospital Course:
Ms. ___ was transferred to ___ from ___ on ___ for 
definitive surgical management of her recurrent right sided 
pneumothorax. She arrived with a right sided chest tube in 
place. A CT done at the outside hospital showed some small 
apical blebs that were thought to be responsible for her 
recurrent disease. Plans were made to pursue a R VATS blebectomy 
and pleurodesis. She was taken to the OR on HD2. At that time, 
no impressive blebs were appreciated, but her right diaphragm 
was found to be severely attenuated and covered in tissue 
consistent with endometriosis. This tissue was biopsied, and the 
right diaphragm plicated in addition to the planned pleurodesis. 
For more details, see the operative report. She was taken to the 
PACU from the OR in stable condition with 2 right sided chest 
drains in place. She was then moved to the surgical floor. On 
the evening of POD0, she reported chest pain. An EKG and 
troponins were negative for any signs of MI. She also reported 
intense nausea. Her nausea was thought to be due mostly to her 
narcotic pain medication.  Her pain medication was switched from 
dilaudid to oxycodone, and her nausea was treated with Zofran 
and scopolamine patch. Her nausea improved with these 
interventions. On POD1 a small leak was noted, and her chest 
tubes were maintained at -20cm H20 suction. On POD2 her leak had 
resolved, and her chest tubes were removed. A follow up CXR 
showed no pneumothorax. She was discharged home tolerating an 
oral diet, pain well controlled with oral medications, 
ambulating without difficulty, voiding and passing stool and 
flatus. All of her questions were answered to her satisfaction.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Gabapentin 100 mg PO Q8H:PRN pain 
3. Loratadine 10 mg PO DAILY 
4. Pantoprazole 20 mg PO Q24H 
5. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 
3. Gabapentin 100 mg PO Q8H:PRN pain 
4. Loratadine 10 mg PO DAILY 
5. Pantoprazole 20 mg PO Q24H 
6. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every 6 hours Disp #*120 Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*0
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*60 Tablet Refills:*0
9. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth daily Disp #*30 
Capsule Refills:*0
10. Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours 
RX *scopolamine base [Transderm-Scop] 1.5 mg (delivers 1 mg over 
3 days) Place one patch on clean skin every 3 days Disp #*10 
Film Refills:*0
11. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg/5 mL 5 mililiters by mouth every 8 
hours Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent pneumothorax, likely catamenial. 

 
Discharge Condition:
Clear and coherent, awake and interactive, ambulatory and 
independent. 

 
Discharge Instructions:
* You were admitted to the hospital for removal of your 
esophageal duplication cysts and you've recovered well. You are 
now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you 
experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 

 
Followup Instructions:
___